US09029360B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-isopropyl-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-methanone
The title compound was prepared in accordance with the general method of example 1 from 6-bromo-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid and 2-isopropyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine hydrobromide. The reaction mixture was purified by HPLC chromatography and lyophilized. Yield: 15 mg (17% of theory). ESI-MS: m/z=420 (M+H)+; Rt(HPLC): 1.34 min. (Method J).

reactant | 6-bromo-pyrazolo[1,5-A]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 2-isopropyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine hydrobromide | Br.C(C)(C)C=1SC2=C(CCNCC2)N1
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(2-isopropyl-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepin-6-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)SC(=N1)C(C)C | C17H18BrN5OS
